US04108909
4-n-octyl resorcinol is prepared by heating 1-octanol with resorcinol in the presence of 20 wt % alumina. The 1-octanol is added at such a rate that the temperature is maintained at 275° C, with continuous removal of the water formed.

reactant | 1-octanol | C(CCCCCCC)O | C8H18O
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
solvent | water | O | H2O
product | 4-n-octyl resorcinol | C(CCCCCCC)C1=C(C=C(O)C=C1)O | C14H22O2
